US07858632B2
To a solution of 5-chloro-2-isopropyl-4-methoxy-phenol (10.36 g, 51.6 mmol) in 40 mL DMF was added K2CO3 (8.55 g, 62.0 mmol) and the mixture was heated to 65° C. After 15 minutes iodoacetonitrile (9.05 g, 54.2 mmol) was added and the mixture was heated to 80° C. for 1 hour. The mixture was cooled, poured into an ice/H2O mixture and extracted with 1:1 toluene/hexane. The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by passing through a short plug of silica to afford (5-chloro-2-isopropyl-4-methoxy-phenoxy)-acetonitrile (11.97 g, 97%) as a white solid.

reactant | 5-chloro-2-isopropyl-4-methoxy-phenol | 51.6 mmol, 10.36 g | ClC=1C(=CC(=C(C1)O)C(C)C)OC | C10H13ClO2
reactant | K2CO3 | 62.0 mmol, 8.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoacetonitrile | 54.2 mmol, 9.05 g | ICC#N | C2H2IN
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (5-chloro-2-isopropyl-4-methoxy-phenoxy)-acetonitrile | 11.97 g, 97% | ClC=1C(=CC(=C(OCC#N)C1)C(C)C)OC | C12H14ClNO2
